US08242133B2
To a mixture of 0.24 g of 3-chloro-N-[2-hydroxy-5-(pentafluoroethyl)phenyl]isonicotinamide, 4 ml of tetrahydrofuran and 0.21 g of triphenylphosphine, 0.34 g of 40% toluene solution of diethyl azodicarboxylate was added dropwise at room temperature. The reaction mixture was stirred for 1.8 hours. The reaction mixture was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.19 g of 2-(3-chloropyridin-4-yl)-5-(pentafluoroethyl)benzoxazole (hereinafter, referred to as “active compound 66”).

reactant | 3-chloro-N-[2-hydroxy-5-(pentafluoroethyl)phenyl]isonicotinamide | 0.24 g | ClC1=C(C(=O)NC2=C(C=CC(=C2)C(C(F)(F)F)(F)F)O)C=CN=C1 | C14H8ClF5N2O2
reactant | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
reactant | triphenylphosphine | 0.21 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | toluene | 0.34 g | C1(=CC=CC=C1)C | C7H8
product | 2-(3-chloropyridin-4-yl)-5-(pentafluoroethyl)benzoxazole | 0.19 g | ClC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(C(F)(F)F)(F)F | C14H6ClF5N2O
